US07947727B2
2-Chloro-N-propyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide
Prepared similarly to Example 1 from 2-chlorobenzoic acid and 1,1,1-trifluoro-3-[(1-phenyl-1H-indazol-4-yl)amino]-2-[(propylamino)methyl]-2-propanol.

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 1,1,1-trifluoro-3-[(1-phenyl-1H-indazol-4-yl)amino]-2-[(propylamino)methyl]-2-propanol | FC(C(CNC1=C2C=NN(C2=CC=C1)C1=CC=CC=C1)(O)CNCCC)(F)F | C20H23F3N4O
product | 2-Chloro-N-propyl-N-(3,3,3-trifluoro-2-hydroxy-2-{[(1-phenyl-1H-indazol-4-yl)amino]methyl}propyl)benzamide | ClC1=C(C(=O)N(CC(C(F)(F)F)(CNC2=C3C=NN(C3=CC=C2)C2=CC=CC=C2)O)CCC)C=CC=C1 | C27H26ClF3N4O2
